US04755212
Preparation of 2-benzylthio-5-methoxy-6-methyl-1,2,4-triazolo[1,5-a]pyrimidine
This material was prepared in 64% yield by reaction of 2-benzylthio-5-chloro-6-methyl-1,2,4-triazolo[1,5-a]pyrimidine with sodium methoxide following the general procedure described in Example 22. The desired product was isolated as a solid, m.p. 145°-146° C. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | 2-benzylthio-5-chloro-6-methyl-1,2,4-triazolo[1,5-a]pyrimidine | C(C1=CC=CC=C1)SC1=NN2C(N=C(C(=C2)C)Cl)=N1 | C13H11ClN4S
reactant | sodium methoxide | C[O-].[Na+]
product | 2-benzylthio-5-methoxy-6-methyl-1,2,4-triazolo[1,5-a]pyrimidine | 64% yield | C(C1=CC=CC=C1)SC1=NN2C(N=C(C(=C2)C)OC)=N1 | C14H14N4OS
